US04006159
Preparation of 1(and 2 and 4)-Acetyl-s-triazole-3-carboxamide
A mixture of 0.2 g. of 1,2,4-triazole-3-carboxamide and 0.5 ml. of acetic anhydride is heated on an oil bath at a temperature of 150° C. for 20 minutes. The wet solid mass is triturated with diethyl ether and collected and washed with diethyl ether yielding 0.2 g. of colorless solid. This solid is recrystallized from acetonitrile giving a colorless solid, m.p. 212°-215° C. (dec).

reactant | 1,2,4-triazole-3-carboxamide | N1N=C(N=C1)C(=O)N | C3H4N4O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | Acetyl-s-triazole-3-carboxamide | C(C)(=O)C1=NC(=NN1)C(=O)N | C5H6N4O2
